US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-hydroxymethyl-3-thienyl)-L-phenylalanine
The title compound was prepared by NaBH4 reduction of N-(2,6-Dichlorobenzoyl)-4-(2-formyl-3-thienyl)-L-phenylalanine methyl ester followed by hydrolysis as described in Example 50. ESMS m/z 472 (M++Na), 448 (M−H)−.

reactant | NaBH4 | [BH4-].[Na+]
reactant | N-(2,6-Dichlorobenzoyl)-4-(2-formyl-3-thienyl)-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(SC=C1)C=O)=O | C22H17Cl2NO4S
product | N-(2,6-Dichlorobenzoyl)-4-(2-hydroxymethyl-3-thienyl)-L-phenylalanine | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(SC=C2)CO)C(=O)O)C(=CC=C1)Cl | C21H17Cl2NO4S
